### PR TITLE
feat: lemma1

### LINKED ISSUE #68: Prove Lemma 1
Code here:
https://github.com/Ivan-Sergeyev/seymour/blob/8953c1a841ac83a9087839f71a9f65172a1b4487/Seymour/Matrix/Pivoting.lean#L237

Informal here:
https://github.com/Ivan-Sergeyev/seymour/blob/main/slides/2025-04-01_regularity_2_3_sum/main.pdf

### PR DESCRIPTION
**Pull request by tristan-f-r**
closes #68

### CODE REVIEW

**Comment by madvorak** [comment]
FYI, my definition references this triviality:
```
lemma fin_one_eq_fin_one (a b : Fin 1) : a = b := by
  omega
```

**Comment by madvorak** [comment]
Another way how to go about the auxiliary definition might be `finSuccAboveEquiv` with `Equiv.sumCompl` and some compositions.

**Comment by tristan-f-r** [comment]
Applied your suggestions :+1: from here, I could absolutely dispatch this with the absolute value of the determinant, but I would like to try to care.

File: Seymour/Matrix/Pivoting.lean [hunk 1]
```diff
@@ -365,9 +369,57 @@ lemma lemma1 [Field F] {k : ℕ} {A : Matrix (Fin k.succ) (Fin k.succ) F} {r c :
       simp [M₄, M₃, M₂, M₁]
   rw [hA]
 
-  sorry
+  exact (Matrix.abs_det_submatrix_equiv_equiv ..).symm
 
-lemma corollary1 [Field F] {k : ℕ} {A : Matrix (Fin k.succ) (Fin k.succ) F}
+lemma lemma1 [Group F] [LinearOrderedField F] {k : ℕ}
```
Comment (madvorak) [inline Seymour/Matrix/Pivoting.lean:374]: You should omit `[Group F]` when you have `[LinearOrderedField F]`.

**Comment by tristan-f-r** [comment]
Can close this once I have a concrete impl for `Fin.reindexingAux`'s inverse, or through some proof crunching :+1:

**Comment by madvorak** [comment]
image

**Comment by madvorak** [comment]
I noticed there is an inconsistency between the paper and the code. It is probably a bug in the code I wrote that Lemma 1 is stated without those absolute values.

If we change it to
```
lemma lemma1 [LinearOrderedField F] {k : ℕ}
    {A : Matrix (Fin k.succ) (Fin k.succ) F} {r c : Fin k.succ} (hArc : A r c ≠ 0) :
    ∃ f : Fin k → Fin k.succ, ∃ g : Fin k → Fin k.succ, f.Injective ∧ g.Injective ∧
      |((A.shortTableauPivot r c).submatrix f g).det| = |A.det| / |A r c| := by
```
which it probably should have been from the beginning, will it work?

If you don't feel like reworking the proof, I will fully understand. I can do it myself next week.

**Comment by tristan-f-r** [comment]
That's perfectly ok! That's almost the exact definition of `lemma1_aux`, so I can replace the current `lemma1` with `lemma1_aux`.

**Comment by madvorak** [comment]
I suggest choosing the easiest way towards finishing `corollary1` if you are willing to continue working on it.

**Comment by madvorak** [comment]
Thank you so much!
